US04424359
(a) Preparation of 4,4'-dimethyl-2,2'-bipyridine 1-oxide
27.6 g (0.15 mol) of 4,4'-dimethyl-2,2'-bipyridine are dissolved in 300 ml of dichloromethane. 86 ml of a 1.837-molar solution of peracetic acid in ethyl acetate are added dropwise at 23°-28° C. After stirring for 50 hours at 23° C., the mixture is concentrated in vacuo. 27.2 g (90% of theory) of 4.4'-dimethyl-2,2'-bipyridine 1-oxide crystallise from ethylbenzene/petroleum ether; melting point 80°-130° C. (over a range).

reactant | 4,4'-dimethyl-2,2'-bipyridine | 0.15 mol, 27.6 g | CC1=CC(=NC=C1)C1=NC=CC(=C1)C | C12H12N2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,4'-dimethyl-2,2'-bipyridine 1-oxide | CC=1C=C([N+](=CC1)[O-])C1=NC=CC(=C1)C | C12H12N2O
